US07514578B2
Preparation of methyl 2-benzyloxycarbonylamino-3-diphenylaminoacrylate
36 g (129 mmol) of methyl 2-benzyloxycarbonylamino-3-dimethylaminoacrylate and 24.12 g (142 mmol) of diphenylamine were dissolved in 630 ml of isopropanol at 40° C. Subsequently, the solution was admixed with 17.4 ml of concentrated hydrochloric acid within 5 min and stirred at 40° C. for a further 30 min. The reaction solution was concentrated to 300 ml and admixed slowly with 300 ml of water. The crystallized product was filtered off with suction and dried at 40° C. under reduced pressure. Yield: 30.5 g (59% of theory) 1H NMR: 3.62 (s, 3H), 4.68 (s, 2H), 6.95-7.10 (m, 6H), 7.20-7.50 (m, 9H), 7.61 (s,1 H)

reactant | methyl 2-benzyloxycarbonylamino-3-dimethylaminoacrylate | 129 mmol, 36 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)=CN(C)C | C14H18N2O4
reactant | diphenylamine | 142 mmol, 24.12 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | hydrochloric acid | 17.4 ml | Cl | ClH
solvent | isopropanol | 630 ml | C(C)(C)O | C3H8O
product | methyl 2-benzyloxycarbonylamino-3-diphenylaminoacrylate | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)=CN(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N2O4
